US05089504
A solution of 3-isobutyryl-4-chloro-8-(benzoyloxymethyl)quinoline (3.68 g, 10 mmol) and 4-hydroxy-2-methylaniline (1.35 g, 11 mmol) in dioxan (50 ml) was heated at reflux for 2 hours, then the dioxan evaporated and the residue taken up in 1% methanolic sodium hydroxide (100 ml) and stirred 1.5 hours at room temperature. The methanol was evaporated, the residue taken up in water, adjusted to pH 7, and the solid filtered off. This was converted to the salt with ethanolic hydrogen chloride, then recrystallized from aqueous ethanol to give 3-isobutyryl-4-(2-methylphenylamino)-8-(hydroxymethyl)quinoline hydrochloride (1.15 g, 30%), m.p. 225°-255° (dec).

reactant | 3-isobutyryl-4-chloro-8-(benzoyloxymethyl)quinoline | 10 mmol, 3.68 g | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=CC=C1)=O | C21H18ClNO3
reactant | 4-hydroxy-2-methylaniline | 11 mmol, 1.35 g | OC1=CC(=C(N)C=C1)C | C7H9NO
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-isobutyryl-4-(2-methylphenylamino)-8-(hydroxymethyl)quinoline hydrochloride | 1.15 g, 30% | Cl.C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)CO | InChI=1S/C21H22N2O2.ClH/c1-13(2)21(25)17-11-22-19-15(12-24)8-6-9-16(19)20(17)23-18-10-5-4-7-14(18)3;/h4-11,13,24H,12H2,1-3H3,(H,22,23);1H
